US05786513
d) 2,2',4'-Trichloro-6'-hydroxy-4-methylsulfonylbenzophenone (Table 1, Example No. 183)
3.00 g of 2-chloro-4-methylsulfonylbenzoyl chloride are added in portions at room temperature to a mixture of 1.97 g of 3,5-dichlorophenone and 3.23 g of aluminum chloride in 50 ml of 1,1,2,2-tetrachloroethane, and the mixture is subsequently refluxed for 7 hours. When cold, the reaction mixture is poured onto 100 g of ice and 20 ml of concentrated hydrochloric acid. The organic phase is removed, and the aqueous phase is extracted twice using 50 ml of dichloromethane. The combined organic phases are washed until neutral and subsequently extracted three times using in each case 25 ml of 2N sodium hydroxide solution. The combined alkaline extracts are brought to a pH of 2 using concentrated hydrochloric acid. The precipitate is filtered off, washed with water until neutral and dried. This gives 3.194 g (70% of theory) of 2,2',4'-trichloro-6'-hydroxy-4-methylsulfonylbenzophenone in the form of colorless crystals with a melting point of 123°-126° C.

reactant | 2-chloro-4-methylsulfonylbenzoyl chloride | 3.00 g | ClC1=C(C(=O)Cl)C=CC(=C1)S(=O)(=O)C | C8H6Cl2O3S
reactant | aluminum chloride | 3.23 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | 1,1,2,2-tetrachloroethane | 50 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
product | 2,2',4'-Trichloro-6'-hydroxy-4-methylsulfonylbenzophenone | ClC1=C(C(=O)C2=C(C=C(C=C2O)Cl)Cl)C=CC(=C1)S(=O)(=O)C | C14H9Cl3O4S
